US04443452
5,10-Dihydro-5-{[N-methyl-N-(1-methyl-4-piperidinyl)amino]carbonyl}-11H-dibenzo[b,e][1,4]diazepin-11-one
Nine grams (0.033 mol) of 5-chlorocarbonyl-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one, 5.3 gm (0.05 mol) of sodium carbonate, and 5.2 gm (0.036 mol) of 1-methyl-4-methylamino-piperidine were refluxed in 150 ml of acetonitrile for 15 minutes under stirring. The mixture was filtered while hot, and then the filtrate was placed on a silica gel column and eluted first with acetonitrile and then with a methylene chloride/ethyl acetate/cyclohexane/methanol/ammonia (175:75:23:23:3) mixture. The desired fraction was concentrated by evaporation in vacuo, and the residue was recrystallized from acetonitrile.

reactant | 5-chlorocarbonyl-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one | 0.033 mol, Nine grams | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C14H9ClN2O2
reactant | sodium carbonate | 0.05 mol, 5.3 gm | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-methyl-4-methylamino-piperidine | 0.036 mol, 5.2 gm | CN1CCC(CC1)NC | C7H16N2
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 5,10-Dihydro-5-{[N-methyl-N-(1-methyl-4-piperidinyl)amino]carbonyl}-11H-dibenzo[b,e][1,4]diazepin-11-one | CN(C1CCN(CC1)C)C(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C21H24N4O2
